US08278338B2
0.5 g of 4-dimethylaminomethyl-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b]thiepin-5-ol hydrochloride was dissolved in 2.5 ml of glacial acetic acid; about 0.23 ml of 35% hydrogen peroxide solution was added dropwise at room temperature, with stirring, and stirring was continued for 24 hours. The reaction mixture was covered with a layer of ethyl acetate, while cooling with ice, rendered alkaline with 32% sodium hydroxide solution and extracted twice with ethyl acetate; the combined organic phases were washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo. 0.38 g of crude product was obtained and was chromatographed on silica gel with ethyl acetate/25% ammonia solution (v/v=98:2). 0.15 g of a mixed fraction and 0.13 g of dimethyl-(1-oxo-5-pyridin-3-yl-2,3-dihydro-1H-1λ4-benzo[b]thiepin-4-ylmethyl)-amine were obtained. The latter was dissolved in 6 ml of 2-acetone p.a. and converted into the corresponding hydrochloride with about 0.004 ml of water and about 0.043 ml of chlorotrimethylsilane, while cooling with ice; the hydrochloride was dried in vacuo (about 50 mbar) (yield 0.09 g of white solid).

reactant | 4-dimethylaminomethyl-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b]thiepin-5-ol hydrochloride | 0.5 g | Cl.CN(C)CC1C(C2=C(SCC1)C=CC=C2)(O)C=2C=NC=CC2
reactant | hydrogen peroxide | about 0.23 ml | OO | H2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | dimethyl-(1-oxo-5-pyridin-3-yl-2,3-dihydro-1H-1λ4-benzo[b]thiepin-4-ylmethyl)-amine | 0.13 g | CN(CC1=C(C2=C(S(CC1)=O)C=CC=C2)C=2C=NC=CC2)C | C18H20N2OS
